US04408050
A mixture of 2.1 g of 6-chloro-1-(2-nitrophenyl)spiro[indoline-3,4'-piperidine], free base of Example 33, 95 ml of 95% ethyl alcohol, 7.5 ml of water and 4.4 g of iron powder is acidified with 0.2 ml of concentrated hydrochloric acid and then refluxed under nitrogen for 10 minutes. Thereafter, the mixture is permitted to cool before being filtered through celite. The filtrate is concentrated under vacuum leaving an oily residue which is basified. The alkaline mixture is extracted with ether and then dried. The product is converted to a solid dihydrochloric acid salt which is recrystallized from a methyl alcohol-ether mixture to provide off-white prisms, mp 270°-273° C. (after darkening) of 1-(2-aminophenyl)-6-chlorospiro[indoline-3,4'-piperidine]dihydrochloride.

reactant | 6-chloro-1-(2-nitrophenyl)spiro[indoline-3,4'-piperidine] | 2.1 g | ClC1=CC=C2C(=C1)N(CC21CCNCC1)C1=C(C=CC=C1)[N+](=O)[O-] | C18H18ClN3O2
reactant | ethyl alcohol | 95 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
catalyst | iron | 4.4 g | [Fe] | Fe
solvent | water | 7.5 ml | O | H2O
product | 1-(2-aminophenyl)-6-chlorospiro[indoline-3,4'-piperidine]dihydrochloride | Cl.Cl.NC1=C(C=CC=C1)N1CC2(CCNCC2)C2=CC=C(C=C12)Cl | InChI=1S/C18H20ClN3.2ClH/c19-13-5-6-14-17(11-13)22(16-4-2-1-3-15(16)20)12-18(14)7-9-21-10-8-18;;/h1-6,11,21H,7-10,12,20H2;2*1H
